US05633379
9.87 g (51.7 mmol) of tosyl chloride in 50 ml of dichloromethane are added dropwise at room temperature to a solution of 6.5 g (47 mmol) of 3-(pyrimidin-5-yl)propanol and 9 ml (64.6 mmol) of triethylamine in 100 ml dichloromethane that is being stirred under nitrogen. The mixture is stirred for 16 hours at room temperature, then washed with water and saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated by evaporation under reduced pressure. 14.42 g of 3-(pyrimidin-5-yl)propyl tosylate are obtained, which can be processed further without further purification.

reactant | tosyl chloride | 51.7 mmol, 9.87 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 3-(pyrimidin-5-yl)propanol | 47 mmol, 6.5 g | N1=CN=CC(=C1)CCCO | C7H10N2O
reactant | triethylamine | 64.6 mmol, 9 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-(pyrimidin-5-yl)propyl tosylate | 14.42 g | S(=O)(=O)(OCCCC=1C=NC=NC1)C1=CC=C(C)C=C1 | C14H16N2O3S
